US05187156
To a solution of Ac-Thr-D-Trp(CH2CO2Et)-Phe-NMeBzl (0.98 g) in ethanol (25 ml) was added 0.1N sodium hydroxide solution (14.3 ml) under ice-cooling. After stirring two hours, 0.1N sodium hydroxide solution (2.0 ml) was added and the mixture was stirred for additional two hours. The ethanol was evaporated and the solution was extracted twice with ethyl acetate. The aqueous layer was acidified with 1N hydrochloric acid and extracted twice with ethyl acetate. The extract was washed with sodium chloride solution and concentrated to give Ac-Thr-D-Trp(CH2CO2H)-Phe-NMeBzl as an amorphous solid (0.90 g).

reactant | Ac-Thr-D-Trp(CH2CO2Et)-Phe-NMeBzl | 0.98 g | N([C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)CC(=O)OCC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)C | C38H45N5O7
reactant | sodium hydroxide | 0.1N, 14.3 ml | [OH-].[Na+]
reactant | sodium hydroxide | 0.1N, 2.0 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Ac-Thr-D-Trp(CH2CO2H)-Phe-NMeBzl | 0.90 g | N([C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)CC(=O)O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)C | C36H41N5O7
